Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12]>>[C:10](=[O:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],4.69168715931
[C:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.1587006295
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],-2.16881972165
[H:12].[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.94802602121
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:11][H:12],3.01941301866
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([O:7][H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])[C:12]([H:13])([H:14])[H:15],4.82063599918
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-2.80504392514
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.635085882659999
[H:3].[O:1]=[C:2]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.0540520217000005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]1([H:8])[C:9][C:10]1[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]#[C:10][H:11],-1.92524376581
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.54195181211
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-6.98059737217
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]=[C:3]([H:4])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5],1.62439020547
[H:1][C:2]#[C:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.94033319605
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:8][H:9],1.65758187913
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-4.6093200099
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],2.04797951965
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][H:11],-3.21843936609
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8],4.64332779508
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]=[C:10]([H:11])[H:12].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-3.82020590455
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.222491242439999
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7][H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:9]([H:10])([H:11])[H:12],8.591430678330001
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:9][C:10]([H:11])[H:12].[H:8],2.23159140041
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.62043492643
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],7.37420444708
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.626275864269999
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([H:7])([C:8][O:11][H:12])([H:9])[H:10].[H:1][O:2][C:4]([H:5])[H:6],3.28259508178
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10],-3.0908411845700003
